US07452909B2
4-[1-(3-Methyl-pyridin-2-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine
The title compound, MS: m/e=303.2 (M+H30), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-chloromethyl-3-methyl-pyridine hydrochloride.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 2-chloromethyl-3-methyl-pyridine hydrochloride | Cl.ClCC1=NC=CC=C1C
product | 4-[1-(3-Methyl-pyridin-2-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine | CC=1C(=NC=CC1)CN1C(=NC(=C1)C#CC1=CC(=NC=C1)C)C | C19H18N4
